US07482346B2
5.4. 1-(3-biphenyl-3-yl-1,1-dimethylpropyl)piperazine
0.65 ml (8.4 mmol) of trifluoroacetic acid is added to a solution of 0.35 g (0.86 mmol) of 1,1-dimethylethyl 4-(3-biphenyl-3-yl-1,1-dimethylpropyl)piperazine-1-carboxylate, prepared in step 5.3., in 5 ml of dichloromethane. The mixture is stirred for 2 hours and then 0.65 ml of trifluoroacetic acid is added. It is stirred for 2 more hours and then diluted with 10 ml of 1,2-dichloroethane and evaporated to dryness. The residue is taken up in a mixture of 50 ml of dichloromethane and 20 ml of 15% aqueous sodium hydroxide solution. The phases are separated and the aqueous phase is extracted with 2 times 20 ml of dichloromethane. The organic phases are washed with 10 ml of water and then with 20 ml of saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated, to give 0.25 g (0.81 mmol) of product in the form of a yellow oil.

reactant | trifluoroacetic acid | 8.4 mmol, 0.65 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl 4-(3-biphenyl-3-yl-1,1-dimethylpropyl)piperazine-1-carboxylate | 0.86 mmol, 0.35 g | C1(=CC(=CC=C1)CCC(C)(C)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C26H36N2O2
reactant | trifluoroacetic acid | 0.65 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 1-(3-biphenyl-3-yl-1,1-dimethylpropyl)piperazine | 0.81 mmol, 0.25 g | C1(=CC(=CC=C1)CCC(C)(C)N1CCNCC1)C1=CC=CC=C1 | C21H28N2
